US07157487B2
(Step 9) Synthesis of 4-((2S,4S)-1-(7-fluoro-2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-fluoro-2-pyrrolidinylmethoxy)benzoic acid
Methyl 4-((2S,4S)-1-(7-fluoro-2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-fluoro-2-pyrrolidinylmethoxy)benzoate (490 mg, 0.915 mmol) was dissolved in THF (40 ml). To the resulting solution was added 0.25N NaOH (40 ml), followed by stirring at room temperature for 14 hours. The reaction mixture was distilled under reduced pressure to remove the solvent. The residue was acidified with 1N HCl, followed by extraction with a chloroform/methanol (10/1) mixture. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 50 g), whereby from chloroform/methanol (20/1) eluate fractions, the title compound (394 mg, 83%) was obtained as a colorless amorphous substance.

reactant | Methyl 4-((2S,4S)-1-(7-fluoro-2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-fluoro-2-pyrrolidinylmethoxy)benzoate | 0.915 mmol, 490 mg | FC1=C(C=CC=2N=C(OC21)NC2=C(C=CC=C2)C)CC(=O)N2[C@@H](C[C@@H](C2)F)COC2=CC=C(C(=O)OC)C=C2 | C29H27F2N3O5
reactant | NaOH | 0.25N, 40 ml | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-((2S,4S)-1-(7-fluoro-2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-fluoro-2-pyrrolidinylmethoxy)benzoic acid | 394 mg, 83% | FC1=C(C=CC=2N=C(OC21)NC2=C(C=CC=C2)C)CC(=O)N2[C@@H](C[C@@H](C2)F)COC2=CC=C(C(=O)O)C=C2 | C28H25F2N3O5
